### PR TITLE
[Merged by Bors] - chore: improve simp set to prepare for improved simpNF linter

### PR DESCRIPTION
**Pull request by jcommelin**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by grunweg — COMMENTED** [review]
Looks reasonable, but I'd like another pair of eyes on the changes in Mathlib/Data/Set/Card.lean.
maintainer merge?

File: Mathlib/Algebra/BigOperators/Finsupp/Basic.lean [hunk 1]
```diff
@@ -536,10 +536,15 @@ lemma prod_indicator_index_eq_prod_attach [Zero M] [CommMonoid N]
...
+    ∏ x ∈ s.attach, h x (f x) = ∏ x ∈ s, h x (f x) :=
+  prod_attach _ fun x ↦ h x (f x)
+
+@[to_additive]
 lemma prod_indicator_index [Zero M] [CommMonoid N]
     {s : Finset α} (f : α → M) {h : α → M → N} (h_zero : ∀ a ∈ s, h a 0 = 1) :
-    (indicator s (fun x _ ↦ f x)).prod h = ∏ x ∈ s, h x (f x) :=
-  (prod_indicator_index_eq_prod_attach _ h_zero).trans <| prod_attach _ fun x ↦ h x (f x)
+    (indicator s (fun x _ ↦ f x)).prod h = ∏ x ∈ s, h x (f x) := by
+  simp_all
```
Comment (JovanGerb) [inline Mathlib/Algebra/BigOperators/Finsupp/Basic.lean:547]:
```suggestion
  simp +contextual [h_zero]
```

**Comment by mattrobball** [comment]
bors merge

File: Mathlib/Algebra/BigOperators/Finsupp/Basic.lean (hunk 1 above)
Comment (JovanGerb) [reply Mathlib/Algebra/BigOperators/Finsupp/Basic.lean:547]: `simp_all` suggests that we are simplifying the hypotheses as well, but that isn't the case.

**Comment by mattrobball** [comment]
Hmm. Those messages crossed in the pipes. 

bors r- 

bors delegate+

**Review by jcommelin — COMMENTED** [review]
bors r+
